US06919342B2
2-tert-Butyl-4-{4-[3-(4-methyl-5-methyl-4H-[1,2,4]triazol-3-ylsulfanyl)-propyl]-piperazin-1-yl}-6-trifluoromethyl-pyrimidine hydrochloride
3 g of 4-methyl-5-methyl-4H-[1,2,4]triazole-3-thiol (23.22 mmol) were reacted with 8.47 g of 2-tert-butyl-4-[4-(3-chloro-propyl)-piperazin-1-yl]-6-trifluoromethyl-pyrimidine (23.22 mmol) to yield 8.7 g of the title compound.

reactant | 4-methyl-5-methyl-4H-[1,2,4]triazole-3-thiol | 23.22 mmol, 3 g | CN1C(=NN=C1C)S | C4H7N3S
reactant | 2-tert-butyl-4-[4-(3-chloro-propyl)-piperazin-1-yl]-6-trifluoromethyl-pyrimidine | 23.22 mmol, 8.47 g | C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCCl)C(F)(F)F | C16H24ClF3N4
product | 2-tert-Butyl-4-{4-[3-(4-methyl-5-methyl-4H-[1,2,4]triazol-3-ylsulfanyl)-propyl]-piperazin-1-yl}-6-trifluoromethyl-pyrimidine hydrochloride | 8.7 g | Cl.C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCSC1=NN=C(N1C)C)C(F)(F)F | InChI=1S/C20H30F3N7S.ClH/c1-14-26-27-18(28(14)5)31-12-6-7-29-8-10-30(11-9-29)16-13-15(20(21,22)23)24-17(25-16)19(2,3)4;/h13H,6-12H2,1-5H3;1H
